US04732903
A solution of 55.7 g of dicyclohexylcarbodiimide, 2.6 g of 4-dimethylamino-pyridine and 450 ml of methylene chloride were added over 25 minutes at 0° C. to a mixture of 65 g of (1R,cis,Z)2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]-cyclopropane-carboxylic acid, 70 g of (RS)1-(6-phenoxy-2-pyridyl)-ethanol and 650 ml of methylene chloride and the mixture was stirred at 20° C. for 4 hours and was vaccum filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel. Elution with and 100-4 n-hexane-ethyl acetate mixture yielded 101 g of (RS)1-(6-phenoxy-2-pyridyl)-ethyl(1R,cis,Z)2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]-cyclopropane-carboxylate with a specific rotation of [α]D20 =+64° (c=1% in toluene).

reactant | dicyclohexylcarbodiimide | 55.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (1R,cis,Z)2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]-cyclopropane-carboxylic acid | 65 g | CC1([C@@H]([C@@H]1\C=C/C(OC(C)(C)C)=O)C(=O)O)C | C13H20O4
reactant | (RS)1-(6-phenoxy-2-pyridyl)-ethanol | 70 g | O(C1=CC=CC=C1)C1=CC=CC(=N1)C(C)O | C13H13NO2
catalyst | 4-dimethylamino-pyridine | 2.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 650 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | (RS)1-(6-phenoxy-2-pyridyl)-ethyl(1R,cis,Z)2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]-cyclopropane-carboxylate | 101 g | CC1([C@@H]([C@@H]1\C=C/C(OC(C)(C)C)=O)C(=O)OC(C)C1=NC(=CC=C1)OC1=CC=CC=C1)C | C26H31NO5
